US04997847
(iii) 7-Aminohept-5-ynoic Acid
Hydrazine hydrate (0.1 ml) was added to a solution of 7-phthalimidohept-5-ynoic acid (0.55 g) in ethanol (25 ml). The mixture was refluxed for 3.5 hours and then the solvent was removed under reduced pressure. The residue was suspended in water (20 ml), the pH of the solution was adjusted to 5, and the solid was collected by filtration. The filtrate was evaporated to dryness and the residue was extracted with ethanol (3×5 ml). The ethanol extracts were cooled (5° C.) and the resulting precipitate was collected to give the title compound (0.19 g) m.p. 180°-183° C.

reactant | Hydrazine hydrate | 0.1 ml | O.NN
reactant | 7-phthalimidohept-5-ynoic acid | 0.55 g | C1(C=2C(C(N1CC#CCCCC(=O)O)=O)=CC=CC2)=O | C15H13NO4
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 7-Aminohept-5-ynoic Acid | 0.19 g | NCC#CCCCC(=O)O | C7H11NO2
